US04820816
7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-trifluoromethylsulfonyloxy-1-carba-3-cephem-4-carboxylic acid
syn-2-(2-Triphenylmethylthiazol-4-yl)-2-methoxyiminoacetyl chloride is reacted in acetonitrile with benzyl 7β-amino-3-trifluoromethylsulfonyloxy-1-carba-3-cephem-4-carboxylate in the presence of triethylamine and the acylation product, benzyl 7β-[2-(2-triphenylethylaminothiazol-4-yl)-2-methoxyiminoacetylamino]-3-trifluoromethylsulfonyloxy-1-carba-3-cephem-4-carboxylate is treated with formic acid to remove the triphenylmethyl group and with aluminum chloride ih anisole to remove the benzyl ester group to provide the title compound.

reactant | benzyl 7β-amino-3-trifluoromethylsulfonyloxy-1-carba-3-cephem-4-carboxylate | N[C@H]1[C@@H]2N(C(=C(CC2)OS(=O)(=O)C(F)(F)F)C(=O)OCC2=CC=CC=C2)C1=O | C16H15F3N2O6S
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | benzyl 7β-[2-(2-triphenylethylaminothiazol-4-yl)-2-methoxyiminoacetylamino]-3-trifluoromethylsulfonyloxy-1-carba-3-cephem-4-carboxylate | C1(=CC=CC=C1)C(CNC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CC2)OS(=O)(=O)C(F)(F)F)C(=O)OCC2=CC=CC=C2)C1=O)=NOC)(C1=CC=CC=C1)C1=CC=CC=C1 | C42H36F3N5O8S2
reactant | formic acid | C(=O)O | CH2O2
solvent | acetonitrile | C(C)#N | C2H3N
product | 7β-[2-(2-aminothiazol-4-yl)-2-methoxyiminoacetamido]-3-trifluoromethylsulfonyloxy-1-carba-3-cephem-4-carboxylic acid | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@@H]2N(C(=C(CC2)OS(=O)(=O)C(F)(F)F)C(=O)O)C1=O)=NOC | C15H14F3N5O8S2
